US04550166
3-Methyl-6-(3-pyridinyl)-1,2,4-triazolo[4,3-a]pyridine
A 90 mg portion of 6-chloro-3,3'-bipyridine and 0.15 ml of anhydrous hydrazine were dissolved in 20 ml of pyridine and heated at 110° C. for 48 hours. The volatiles were removed at reduced pressure and the residue dissolved in 20 ml of triethyl orthoacetate and heated at 110° C. for 12 hours. The volatiles were removed at reduced pressure and the residue purified by chromatography on silica gel, eluting with ethyl acetate:methanol (9:2). The obtained tan solid was recrystallized from ethyl acetate-methanol, giving the desired product as off-white flakes, mp 199°-201.5° C.

reactant | 6-chloro-3,3'-bipyridine | ClC1=CC=C(C=N1)C=1C=NC=CC1 | C10H7ClN2
reactant | hydrazine | 0.15 ml | NN | H4N2
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-Methyl-6-(3-pyridinyl)-1,2,4-triazolo[4,3-a]pyridine | CC1=NN=C2N1C=C(C=C2)C=2C=NC=CC2 | C12H10N4
